US08278441B2
(4aS,7aS)-7a-(2,4-Difluoro-5-(5-fluoropyridin-3-yl)phenyl)-4a,5,7,7a-tetrahydro-4H-furo[3,4-d][1,3]thiazin-2-amine dihydrochloride
N Aqueous hydrochloric acid (8.70 mL) is added to N-((4aS,7aS)-7a-(2,4-difluoro-5-(5-fluoropyridin-3-yl)phenyl)-4a,5,7,7a-tetrahydro-4H-furo[3,4-d][1,3]thiazin-2-yl)benzamide (0.252 g, 0.435 mmol) in methanol (4 mL) and the mixture is heated to 90° C. After 18 hours, the heat is removed and the pH of the reaction mixture is adjusted to basic with 5 N aqueous sodium hydroxide. The mixture is extracted three times with 10% isopropyl alcohol in dichloromethane. The organic layer is concentrated under reduced pressure and the resulting residue is purified by radial chromatography eluting with 3% 2 M ammonia in methanol:dichloromethane to give the title compound as the freebase. The free base is dissolved in minimal dichloromethane and 1 M hydrogen chloride in ether is added in excess. Hexane (1 mL) is added and the solvent is removed under reduced pressure to give the title compound (0.129 g, 67%). ES/MS m/e: 366 (M+1).

reactant | hydrochloric acid | 8.70 mL | Cl | ClH
reactant | N-((4aS,7aS)-7a-(2,4-difluoro-5-(5-fluoropyridin-3-yl)phenyl)-4a,5,7,7a-tetrahydro-4H-furo[3,4-d][1,3]thiazin-2-yl)benzamide | 0.435 mmol, 0.252 g | FC1=C(C=C(C(=C1)F)C=1C=NC=C(C1)F)[C@@]12N=C(SC[C@@H]1COC2)NC(C2=CC=CC=C2)=O | C24H18F3N3O2S
solvent | methanol | 4 mL | CO | CH4O
product | (4aS,7aS)-7a-(2,4-Difluoro-5-(5-fluoropyridin-3-yl)phenyl)-4a,5,7,7a-tetrahydro-4H-furo[3,4-d][1,3]thiazin-2-amine dihydrochloride | Cl.Cl.FC1=C(C=C(C(=C1)F)C=1C=NC=C(C1)F)[C@@]12N=C(SC[C@@H]1COC2)N | InChI=1S/C17H14F3N3OS.2ClH/c18-11-1-9(4-22-5-11)12-2-13(15(20)3-14(12)19)17-8-24-6-10(17)7-25-16(21)23-17;;/h1-5,10H,6-8H2,(H2,21,23);2*1H/t10-,17-;;/m0../s1
